US07696347B2
3-(2-Morpholin-4-yl-ethoxymethyl)-quinoline
To a mixture of 3-bromoquinoline (80 mg, 0.39 mmol) and 1,4-dioxane (4 ml) were added water (0.4 ml), cesium carbonate (564 mg, 1.7 mmol), [(2-morpholin-4-ylethoxy)-methyl]trifluoroborate (145 mg, 0.58 mmol), palladium (II) acetate (8.6 mg, 0.04 mmol) and 2,2′-bis(diphenylphosphino)1,1′-binaphthyl (48 mg 0.08 mmol). Then, the reaction mixture was stirred at 100° C. (external temperature) for 15 hours. After the reaction mixture was cooled at room temperature, water and ethyl acetate were added to the mixture, followed by filtration using Celite. The separated organic layer was washed with an aqueous saturated sodium chloride solution. The organic layer was separated, and the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:2) to obtain the title compound (3.2 mg, 0.01 mmol, 3.1%).

reactant | 3-bromoquinoline | 0.39 mmol, 80 mg | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | cesium carbonate | 1.7 mmol, 564 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [(2-morpholin-4-ylethoxy)-methyl]trifluoroborate | 0.58 mmol, 145 mg | N1(CCOCC1)CCOC[B-](F)(F)F
reactant | 2,2′-bis(diphenylphosphino)1,1′-binaphthyl | 0.08 mmol, 48 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | palladium (II) acetate | 0.04 mmol, 8.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.4 ml | O | H2O
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-(2-Morpholin-4-yl-ethoxymethyl)-quinoline | 0.01 mmol, 3.2 mg, 3.1% | N1(CCOCC1)CCOCC=1C=NC2=CC=CC=C2C1 | C16H20N2O2
